US07790751B2
A suspension of 3-(naphthalene-1-sulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole (59.8 mg, 0.152 mmol) in 1,2-dichloroethane was treated with acetone (0.1 mL, 1 mmol) and acetic acid (0.1 mL, 2 mmol), stirred for one hour at ambient temperatures, under nitrogen, treated with sodium triacetoxyborohydride (66.3 mg, 0.313 mmol), stirred for 4 hours, diluted with chloroform and washed sequentially with 1.0 N sodium hydroxide and brine, treated with methanol to aid in solubility, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 0.2% ammonium hydroxide/2.0% methanol in chloroform to afford 5-(1-isopropyl-pyrrolidin-3-yloxy)-3-(naphthalene-1-sulfonyl)-1H-indazole as a very light yellow foam, 45.4 mg (68.6% yield). The foam was dispersed in methanol and chloroform, treated with isopropanolic HCL and concentrated in vacuo at 84° C. for 14 hours to give the title product as a light brown foam, 42.1 mg, Mass spectrum (+APPI, [M+H]+) m/z 436. 1HNMR (500 MHz, DMSO-d6): δ14.22 (d, 1H, J=4.76 Hz), 10.39-11.06 (m*, 1H), 8.75 (d, 1H, J=8.66 Hz), 8.55-8.59 (m, 1H), 8.27 (d, 1H, J=8.18 Hz), 8.04 (d, 1H, J=7.93 Hz), 7.71-7.75 (m, 1H), 7.56-7.64 (m, 3H), 7.25-7.28 (m, 1H), 7.09-7.15 (m, 1H), 5.19-5.22 (m, 1H), 3.39-3.87 (m*, 4H), 3.20-3.25 (m*, 1H), 2.02-2.53 (m, 2H), 1.24-1.28 ppm (m, 6H). *Conformational isomers due to protonation of tertiary amine.

reactant | 3-(naphthalene-1-sulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole | 0.152 mmol, 59.8 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CNCC1 | C21H19N3O3S
reactant | acetone | 1 mmol, 0.1 mL | CC(=O)C | C3H6O
reactant | acetic acid | 2 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.313 mmol, 66.3 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(1-isopropyl-pyrrolidin-3-yloxy)-3-(naphthalene-1-sulfonyl)-1H-indazole | 68.6% yield | C(C)(C)N1CC(CC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C24H25N3O3S
